US08980877B2
A mixture of (±)-6-bromo-4-oxo-spiro(chromane-2,4′-azepane)-1′-carboxylic acid tert-butyl ester (7.20 g, 17.6 mmol), Pd(OAc)2 (78 mg, 0.35 mmol), P(o-tol)3 (213 mg, 0.70 mmol), TEA (7.32 ml, 52.7 mmol), methyl acrylate (4.74 ml, 52.7 mmol) in dry DMF (20 ml) was heated under N2 atmosphere to 100° C. for 3 h. After cooling down to RT, the solution was filtered on a celite pad and washed with EtOAc (100 ml). The filtrate was washed with water and brine. The organic phase was dried over Na2SO4 and evaporated under vacuum. The crude residue was purified by column chromatography (eluent: petroleum ether/EtOAc 8:2 to 7:3) to give (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (7.1 g) as a light yellow solid.

reactant | (±)-6-bromo-4-oxo-spiro(chromane-2,4′-azepane)-1′-carboxylic acid tert-butyl ester | 17.6 mmol, 7.20 g | C(C)(C)(C)OC(=O)N1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)Br | C19H24BrNO4
reactant | methyl acrylate | 52.7 mmol, 4.74 ml | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.35 mmol, 78 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | P(o-tol)3 | 0.70 mmol, 213 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
product | (±)-(E)-3-[1′-tert-butoxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 7.1 g | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)C(=O)OC(C)(C)C)OC2=CC1)=O)=O | C23H29NO6
